US05998437
To 0.29 g of nicotinic acid was added 50 ml of dimethylformamide, further 1.2 g of 1-benzyl-6-chloro-2-[1-(3-aminopropyl)indol-5-ylaminocarbonyl]-benzimidazole and 0.7 ml of triethylamine were added, the mixture was stirred under cooling at 0° C. Next, 0.49 g of diethylcyanophosphonate was dissolved in 20 ml of dimethylformamide and added thereto and the reaction mixture was stirred at room temperature for 1 day. After the reaction was finished, water was added then the whole mixture was extracted with ethyl acetate, the extract thus obtained was washed with water and an aqueous solution saturated with sodium chloride. The washed extract was dried with anhydrous magnesium sulfate, then the solvent was removed by distillation under reduced pressure. The resulting residue was subjected to a silica gel column chromatography (eluent: 2% methanol/dichloromethane), recrystallized from chloroform, there was obtained 1 g of 1-benzyl-6-chloro-2-{1-[3-(pyridin-3-ylcarbonylamino)propyl]indol-5-ylaminocarbonyl}benzimidazole as in the form of yellow needle crystals.

reactant | nicotinic acid | 0.29 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 1-benzyl-6-chloro-2-[1-(3-aminopropyl)indol-5-ylaminocarbonyl]-benzimidazole | 1.2 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)Cl)C(=O)NC=2C=C1C=CN(C1=CC2)CCCN | C26H24ClN5O
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | diethylcyanophosphonate | 0.49 g | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-benzyl-6-chloro-2-{1-[3-(pyridin-3-ylcarbonylamino)propyl]indol-5-ylaminocarbonyl}benzimidazole | 1 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)Cl)C(=O)NC=2C=C1C=CN(C1=CC2)CCCNC(=O)C=2C=NC=CC2 | C32H27ClN6O2
